US04293541
4,6-Dioxo-10-propyl-4H,6H-benzo-[1,2-b:5,4-b']dipyran-2,8-dicarboxylic acid, di-guanidinium salt
4,6-Dioxo-10-propyl-4H,6H-benzo[1,2-b:5,4-b']dipyran-2,8-dicarboxylic acid (1.0 g) was added to a stirred solution of guanidinium carbonate (0.52 g) in water (20 ml) and the mixture was stirred at room temperature until effervescence had ceased. The precipitated solid was collected using a centrifuge, washed with water and acetone and dried in vacuo at 70° C. to give the title compound (0.83 g; 62%).

reactant | 4,6-Dioxo-10-propyl-4H,6H-benzo[1,2-b:5,4-b']dipyran-2,8-dicarboxylic acid | 1.0 g | O=C1C2=C(OC(=C1)C(=O)O)C(=C1OC(=CC(C1=C2)=O)C(=O)O)CCC | C17H12O8
reactant | guanidinium carbonate | 0.52 g | C([O-])([O-])=O.NC(=[NH2+])N.NC(=[NH2+])N
solvent | water | 20 ml | O | H2O
product | 4,6-Dioxo-10-propyl-4H,6H-benzo-[1,2-b:5,4-b']dipyran-2,8-dicarboxylic acid, di-guanidinium salt | 0.83 g, 62% | NC(=[NH2+])N.NC(=[NH2+])N.O=C1C2=C(OC(=C1)C(=O)[O-])C(=C1OC(=CC(C1=C2)=O)C(=O)[O-])CCC | InChI=1S/C17H12O8.2CH5N3/c1-2-3-7-14-8(10(18)5-12(24-14)16(20)21)4-9-11(19)6-13(17(22)23)25-15(7)9;2*2-1(3)4/h4-6H,2-3H2,1H3,(H,20,21)(H,22,23);2*(H5,2,3,4)
